US04631343
A solution of 6.4 g of 5-chloro-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester and 2 g of lithium cyanide dissolved in 30 ml of DMF was reacted at approximately 110° C. for 23 hours. One additional gram of lithium cyanide was added to the reaction mixture which was heated for an additional 7 hours. The mixture was poured into ice water and the precipitated solid was collected by filtration and recrystallized from 3A alcohol (charcoal) to provide 3.75 g of 5-cyano-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester. Yield 61%. mp=79°-81° C.

reactant | 5-chloro-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 6.4 g | ClC1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C12H9Cl3N2O2
reactant | lithium cyanide | 2 g | [C-]#N.[Li+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-cyano-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 3.75 g, Yield 61% | C(#N)C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C13H9Cl2N3O2
